US08222416B2
To a mixture of toluene-4-sulfonic acid 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester (500 mg, 0.93 mmol), 4-methylsulfonyl phenylboronic acid (560 mg, 2.78 mmol), and dichlorobis(triphenylphosphine)palladium (II) (65.3 mg, 0.09 mmol) in dioxane (4 mL) was added an aqueous sodium carbonate solution (2 M, 1.40 mL, 2.8 mmol). The resulting mixture was subjected to microwave irradiation for 2 h at 100° C. The mixture was diluted with ethyl acetate (100 mL), washed with a saturated aqueous sodium bicarbonate solution (2×30 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. The residue was purified by flash column chromatography (silica gel from QingDao, 200-300 mesh, 25% ethyl acetate/hexanes) to afford 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-fluoro-1H-pyrrolo[2,3-b]pyridine (200 mg, 41%) as a light yellow solid: LC/MS m/e calcd for C27H25FN2O4S2 [M+H]+ 525.64, observed 525.1.

reactant | toluene-4-sulfonic acid 1-(1-benzenesulfonyl-5-fluoro-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester | 0.93 mmol, 500 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(=CC2CCCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C27H25FN2O5S2
reactant | 4-methylsulfonyl phenylboronic acid | 2.78 mmol, 560 mg | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | sodium carbonate | 2.8 mmol, 2 M, 1.40 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.09 mmol, 65.3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-benzenesulfonyl-2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-fluoro-1H-pyrrolo[2,3-b]pyridine | 200 mg, 41% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)F)C(=CC2CCCC2)C2=CC=C(C=C2)S(=O)(=O)C | C27H25FN2O4S2
